US07015236B2
N-(4-Chloro-3-methyl-5-isoxazolyl)-4-(trifluoromethyl)nicotinamide (Compound No. 1-21, Step B)
To N-(3-methyl-5isoxazolyl)-4-(trifluoromethyl)nicotinamide (Compound No. 1-2, 101.7 mg, 0.37 mmol) prepared according to Example 1, carbon tetrachloride (2 ml) and N-chlorosuccinimide (64.6 mg, 0.48 mmol) were added, and the mixture was heated under reflux for 1.5 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The resulting residue was purified by thin layer chromatography (a developing solvent: hexane/ethyl acetate=1/1) to obtain the title compound (69.3 mg, yield 61%).

reactant | N-(3-methyl-5isoxazolyl)-4-(trifluoromethyl)nicotinamide | 0.37 mmol, 101.7 mg | CC1=NOC(=C1)NC(C1=CN=CC=C1C(F)(F)F)=O | C11H8F3N3O2
reactant | carbon tetrachloride | 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | N-chlorosuccinimide | 0.48 mmol, 64.6 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-(4-Chloro-3-methyl-5-isoxazolyl)-4-(trifluoromethyl)nicotinamide | 69.3 mg, yield 61% | ClC=1C(=NOC1NC(C1=CN=CC=C1C(F)(F)F)=O)C | C11H7ClF3N3O2
